US05965563
4-(5-indanylamino)-pyrido[2,3-d]pyrimidine
A suspension of 4-(5-indanylamino)-pyrido[2,3-d]pyrimidine hydrochloride (2.988 g, 10 mM) and potassium carbonate (2.764 g, 20 mM) in methanol (60 ml) is stirred at ambient temperature for 0.5 h. The mixture is filtered and the filtrate evaporated under vacuum. The residue is purified by column chromatography using a 93:7 mixture of dichloromethane/methanol as eluant to give pure title compound in 90% yield.

reactant | 4-(5-indanylamino)-pyrido[2,3-d]pyrimidine hydrochloride | 10 mM, 2.988 g | Cl.C1CCC2=CC(=CC=C12)NC=1C2=C(N=CN1)N=CC=C2
reactant | potassium carbonate | 20 mM, 2.764 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | 4-(5-indanylamino)-pyrido[2,3-d]pyrimidine | 90% yield | C1CCC2=CC(=CC=C12)NC=1C2=C(N=CN1)N=CC=C2 | C16H14N4
